US05798364
A mixture of 1450 ml of DMF, 219.7 g of 2-butyl-3-(2'-cyano-biphenyl-4-ylmethyl)-4,5-dihydro-4-oxo-5-(o-ethoxycarbonyl-benzyl)-3H-imidazo[4,5-c]pyridine, 166.5 g of triethylammonium chloride and 78.6 g of sodium azide is heated to 120° for 22 hours. After cooling, the mixture is worked up conventionally with ethyl acetate and water, the crude product is purified several times by suspending it in ethanol and filtering, and 2-butyl-4,5-dihydro-4-oxo-3-[2'-(tetrazol-5-yl)-biphenyl-4-ylmethyl]-5-(o-ethoxycarbonyl-benzyl)-3H-imidazo[4,5-c]-pyridine is obtained; m.p. 203°-204°.

reactant | DMF | 1450 ml | CN(C)C=O | C3H7NO
reactant | 2-butyl-3-(2'-cyano-biphenyl-4-ylmethyl)-4,5-dihydro-4-oxo-5-(o-ethoxycarbonyl-benzyl)-3H-imidazo[4,5-c]pyridine | 219.7 g | C(CCC)C1=NC2=C(C(N(C=C2)CC2=C(C=CC=C2)C(=O)OCC)=O)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C34H32N4O3
reactant | triethylammonium chloride | 166.5 g | [Cl-].C(C)[NH+](CC)CC
reactant | sodium azide | 78.6 g | [N-]=[N+]=[N-].[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-butyl-4,5-dihydro-4-oxo-3-[2'-(tetrazol-5-yl)-biphenyl-4-ylmethyl]-5-(o-ethoxycarbonyl-benzyl)-3H-imidazo[4,5-c]-pyridine | C(CCC)C1=NC2=C(C(N(C=C2)CC2=C(C=CC=C2)C(=O)OCC)=O)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C34H33N7O3
